US07842713B2
Preparation of Intermediate 252d: Ethyl 2-methyl-4-[4-(methylsulfonyl)phenoxy]-1-benzofuran-6-carboxylate
The mixture of ethyl 4-hydroxy-2-methylbenzofuran-6-carboxylate (4.5 g, 20.4 mmol), 1-fluoro-4-(methylsulfonyl)benzene (5.34 g, 30.7 mmol) and Cs2CO3 (9.99 g, 30.7 mmol) in DMF (10 mL) was heated in a microwave at 120° C. for 60 min. The sample was filtered and the filtrate was concentrated to give an oil residue. The oil was purified by HPLC to give the title compound (5.074 g, 66%) as an off-white solid. 1H NMR (300 MHz, CHLOROFORM-D) d ppm 1.39 (t, J=7.16 Hz, 3 H) 2.46 (s, 3 H) 3.06 (s, 3 H) 4.38 (q, J=7.16 Hz, 2 H) 6.21 (s, 1 H) 7.00-7.14 (m, 2 H) 7.62 (s, 1 H) 7.81-7.95 (m, 2 H) 8.01 (s, 1 H).

reactant | ethyl 4-hydroxy-2-methylbenzofuran-6-carboxylate | 20.4 mmol, 4.5 g | OC1=CC(=CC2=C1C=C(O2)C)C(=O)OCC | C12H12O4
reactant | 1-fluoro-4-(methylsulfonyl)benzene | 30.7 mmol, 5.34 g | FC1=CC=C(C=C1)S(=O)(=O)C | C7H7FO2S
reactant | Cs2CO3 | 30.7 mmol, 9.99 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Ethyl 2-methyl-4-[4-(methylsulfonyl)phenoxy]-1-benzofuran-6-carboxylate | 5.074 g, 66% | CC=1OC2=C(C1)C(=CC(=C2)C(=O)OCC)OC2=CC=C(C=C2)S(=O)(=O)C | C19H18O6S
